* C:\users\igor-emlid\My Documents\LTspiceXVII\Lab1\comparator.asc
XX1 a1 b1 N009 N004 N010 N016 one_comp
XX2 a2 b2 N010 N005 N011 N014 one_comp
XX3 a3 b3 N011 N007 e N012 one_comp
XX4 a0 b0 N008 N001 N009 N018 one_comp
V1 N008 0 1
XX5 N001 N004 N002 nand
XX6 N002 N002 N003 nand
XX7 N003 P001 bg nand
XX8 N006 N006 P001 nand
XX9 N005 N007 N006 nand
XX10 N016 N018 N017 nand
XX11 N017 N017 N015 nand
XX12 P002 N015 ag nand
XX13 N013 N013 P002 nand
XX14 N012 N014 N013 nand

* block symbol definitions
.subckt one_comp a b pe notl e notg
.ends one_comp

.subckt nand x y c
M1 c y N001 N002 PMOS l=90n w=400n
M2 c x N001 N003 PMOS l=90n w=400n
M3 c x P001 N004 NMOS l=90n w=200n
M4 P001 y 0 N005 NMOS l=90n w=200n
V1 N001 0 1
.include 90nm_bulk.txt
.ends nand

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\igor-emlid\My Documents\LTspiceXVII\lib\cmp\standard.mos
.include 90nm_bulk.txt
.tran 0 8n 0 1p
.backanno
.end
