* C:\users\igor-emlid\My Documents\LTspiceXVII\Lab1\nand.asc
M1 N006 N002 N001 N004 PMOS l=90n w=400n
M2 N006 N003 N001 N005 PMOS l=90n w=400n
M3 N006 N003 P001 N007 NMOS l=90n w=200n
M4 P001 N002 0 N008 NMOS l=90n w=200n
V1 N001 0 1
V2 N003 0 PULSE(0 1 1n 10p 10p 2n 4n)
V3 N002 0 PULSE(0 1 1n 10p 10p 4n 8n)
R1 N006 0 100k
C1 N006 0 100f
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\igor-emlid\My Documents\LTspiceXVII\lib\cmp\standard.mos
.include 90nm_bulk.txt
.tran 0 8n 0 1p
.backanno
.end
