* C:\users\igor-emlid\My Documents\LTspiceXVII\Lab1\short.asc
XQ N001 N003 N002 nand
V1 N001 0 PULSE(0 1 1n 10p 10p 2n 4n)
V2 N003 0 PULSE(0 1 1n 10p 10p 4n 8n)
R1 N002 0 100k
C1 N002 0 100f

* block symbol definitions
.subckt nand x y c
M1 c y N001 N002 PMOS l=90n w=400n
M2 c x N001 N003 PMOS l=90n w=400n
M3 c x P001 N004 NMOS l=90n w=200n
M4 P001 y 0 N005 NMOS l=90n w=200n
V1 N001 0 1
.include 90nm_bulk.txt
.ends nand

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\igor-emlid\My Documents\LTspiceXVII\lib\cmp\standard.mos
.include 90nm_bulk.txt
.tran 0 8n 0 1p
.backanno
.end
