* C:\users\igor-emlid\My Documents\LTspiceXVII\Lab1\test_one_comp.asc
XX1 N002 N005 N003 N001 N004 N006 one_comp
R1 N001 0 100k
C1 N001 0 100f
R2 N004 0 100k
C2 N004 0 100f
R3 N006 0 100k
C3 N006 0 100f
V1 N002 0 PULSE(0 1 1n 10p 10p 2n 4n)
V2 N003 0 1
V3 N005 0 PULSE(0 1 1n 10p 10p 4n 8n)

* block symbol definitions
.subckt one_comp a b pe notl e notg
XX1 a a N001 nand
XX2 b b N010 nand
XX3 N001 b N002 nand
XX4 N002 N002 N003 nand
XX5 N003 pe notl nand
XX6 a N010 N012 nand
XX7 N012 N012 N011 nand
XX8 pe N011 notg nand
XX9 a pe N004 nand
XX10 N004 N004 N005 nand
XX11 N005 b N006 nand
XX12 N006 N007 e nand
XX13 pe N010 N009 nand
XX14 N009 N009 N008 nand
XX15 N001 N008 N007 nand
.include 90nm_bulk.txt
.ends one_comp

.subckt nand x y c
M1 c y N001 N002 PMOS l=90n w=400n
M2 c x N001 N003 PMOS l=90n w=400n
M3 c x P001 N004 NMOS l=90n w=200n
M4 P001 y 0 N005 NMOS l=90n w=200n
V1 N001 0 1
.include 90nm_bulk.txt
.ends nand

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\igor-emlid\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 8n 0 1p
.include 90nm_bulk.txt
.backanno
.end
